US06924276B2
1,1′-Carbonyldiimidazole (1.2 g, 7.4 mmol) was added to a stirred solution of 2,5-thiophene-dicarboxylic acid (0.5 g, 3.0 mmol) in dimethylformamide (25 mL) under an inert atmosphere, and the mixture was heated to 55° C. to 60° C. After 30 minutes, the mixture was allowed to cool and piperonylamine (1.05 g, 6.7 mmol) was added. The mixture was reheated to 55° C. to 60° C. After 3 hours, the mixture was allowed to cool, and was poured into water (250 mL), and the aqueous mixture was stirred. After several hours, the precipitate was filtered off, rinsed with water, and dried to afford 1.2 g of thiophene-2,5-dicarboxylic acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide]. Recrystallization of a sample from ethanol gave product with a mp 207-209° C.

reactant | 1,1′-Carbonyldiimidazole | 7.4 mmol, 1.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,5-thiophene-dicarboxylic acid | 3.0 mmol, 0.5 g | S1C(=CC=C1C(=O)O)C(=O)O | C6H4O4S
reactant | piperonylamine | 6.7 mmol, 1.05 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | water | 250 mL | O | H2O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | thiophene-2,5-dicarboxylic acid bis-[(1,3-benzodioxol-5-ylmethyl)-amide] | 1.2 g | O1COC2=C1C=CC(=C2)CNC(=O)C=2SC(=CC2)C(=O)NCC2=CC1=C(OCO1)C=C2 | C22H18N2O6S
